US06642234B1
Synthesis of 3-(2,4-Dimethylthiazol-5-yl)-3-hydroxy-2-(5-methyl-2-phenyl-1,2,3-triazol4-yl)acrylonitrile (Compound No. 20)
0.90 g of 4-cyanomethyl-5-methyl-2-phenyl-1,2,3-triazole and 1.04 g of 1-(2,4-dimethylthiazol-5-carbonyl)pyrazole were dissolved in tetrahydrofuran, and 1.02 g of potassium tert-butoxide was added thereto at 0° C. After stirring for 1 hour at room temperature, diluted hydrochloric acid was added to the reaction solution to make it acid. The solution was extracted with ethyl acetate, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the resulting solid was washed with isopropyl ether to obtain 0.79 g of the aimed compound. m.p.: 117-118° C.

reactant | 4-cyanomethyl-5-methyl-2-phenyl-1,2,3-triazole | 0.90 g | C(#N)CC1=NN(N=C1C)C1=CC=CC=C1 | C11H10N4
reactant | 1-(2,4-dimethylthiazol-5-carbonyl)pyrazole | 1.04 g | CC=1SC(=C(N1)C)C(=O)N1N=CC=C1 | C9H9N3OS
reactant | potassium tert-butoxide | 1.02 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(2,4-Dimethylthiazol-5-yl)-3-hydroxy-2-(5-methyl-2-phenyl-1,2,3-triazol4-yl)acrylonitrile | 0.79 g | CC=1SC(=C(N1)C)C(=C(C#N)C1=NN(N=C1C)C1=CC=CC=C1)O | C17H15N5OS
